US05380721
To a mixture of phthalic anhydride (64.8 g, 438 mmol), tetrachloroethane (600 mL) and 1,3-difluorobenzene (100 g, 877 mmol) was added anhydrous A1C13 (141 g, 964 mmol) over 20 minutes while maintaining the reaction temperature below 40° C. The temperature was increased to 90° C. for 2 hours, the reaction mixture was cooled and poured into ice/6N HCl. The mixture was extracted with ether (2×1.2 L) and the combined ether extracts were dried over Na2SO4. The solvent was removed in vacuo and the residue was recrystallized from hot ethyl acetate to afford 86.5 g (75%) of 2-(2,4-difluorobenzoyl)benzoic acid, m.p. 129°-131 ° C.

reactant | phthalic anhydride | 438 mmol, 64.8 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 1,3-difluorobenzene | 877 mmol, 100 g | FC1=CC(=CC=C1)F | C6H4F2
solvent | tetrachloroethane | 600 mL | ClCC(Cl)(Cl)Cl | C2H2Cl4
product | 2-(2,4-difluorobenzoyl)benzoic acid | 86.5 g, 75% | FC1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1)F | C14H8F2O3
